### PR TITLE
[Merged by Bors] - feat(LocalExtr/Basic): add lemmas about `_ ∈ posTangentConeAt _ _`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/LocalExtr/Basic.lean [hunk 1]
```diff
@@ -83,24 +83,30 @@ theorem posTangentConeAt_mono : Monotone fun s => posTangentConeAt s a := by
...
-  simpa only [add_sub_cancel_left] using mem_posTangentConeAt_of_segment_subset h
+  refine mem_posTangentConeAt_of_frequently_mem (Eventually.frequently ?_)
+  rw [eventually_nhdsWithin_iff]
+  filter_upwards [ge_mem_nhds one_pos] with t ht₁ ht₀
+  apply h
+  rw [segment_eq_image', add_sub_cancel_left]
+  exact mem_image_of_mem _ ⟨le_of_lt ht₀, ht₁⟩
 #align mem_pos_tangent_cone_at_of_segment_subset' mem_posTangentConeAt_of_segment_subset'
 
+theorem mem_posTangentConeAt_of_segment_subset {s : Set E} {x y : E} (h : segment ℝ x y ⊆ s) :
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/LocalExtr/Basic.lean:104]: maybe:
```suggestion
theorem sub_mem_posTangentConeAt_of_segment_subset {s : Set E} {x y : E} (h : segment ℝ x y ⊆ s) :
```
so that you can remove the prime?

**Review by fpvandoorn — COMMENTED** [review]
LGTM

bors d+

File: Mathlib/Analysis/Calculus/LocalExtr/Basic.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Analysis/Calculus/LocalExtr/Basic.lean:104]: Asked on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Deprecation.20.26.20recycling.20lemma.20names) about deprecation cycle in this case.
